US06861424B2
To a solution of 2-aminonaphthalene (985 mg, 6.8 mmol) in N,N-dimethylformamide (DMF) (50 mL) was added potassium carbonate (1.806 g, 13.6 mmol) and tert-butyl bromoacetate (1.4 mL, 9.9 mmol). The resulting reaction mixture was stirred at ambient temperature. After 24 hours, the reaction mixture was diluted with water (200 mL), then extracted by ethyl acetate (150 mL). The organic layer was separated and washed with water (3×100 mL), then dried over sodium sulfate. The solvent was evaporated in vacuo to afford a product as ann yellow oil. Purification of product by flash column on silica gel afforded 2-((1,1-dimethylethoxycarbonyl)methyl)aminonaphthalene (1.2 g).

reactant | 2-aminonaphthalene | 6.8 mmol, 985 mg | NC1=CC2=CC=CC=C2C=C1 | C10H9N
reactant | potassium carbonate | 13.6 mmol, 1.806 g | C([O-])([O-])=O.[K+].[K+]
reactant | tert-butyl bromoacetate | 9.9 mmol, 1.4 mL | BrCC(=O)OC(C)(C)C | C6H11BrO2
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
solvent | water | 200 mL | O | H2O
product | 2-((1,1-dimethylethoxycarbonyl)methyl)aminonaphthalene | 1.2 g | CC(C)(OC(=O)CNC1=CC2=CC=CC=C2C=C1)C | C16H19NO2
